US07202364B2
A mixture of 1.31 g (6.43 mmol) of 1-fluoro-2-acetylaminonaphthalene in 15 mL of 6 N HCl and 15 mL of EtOH under a nitrogen atmosphere is heated to reflux for 3 hours and then allowed to cool to room temperature. The reaction is neutralized with saturated aqueous NaHCO3 and extracted 3 times with 30 mL of CH2Cl2. The combined organic layers are washed 2 times with 20 mL saturated brine, dried over MgSO4 and the solvents evaporated to give 1-fluoro-2-aminonaphthalene.

reactant | 1-fluoro-2-acetylaminonaphthalene | 6.43 mmol, 1.31 g | FC1=C(C=CC2=CC=CC=C12)NC(C)=O | C12H10FNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 6 N, 15 mL | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
product | 1-fluoro-2-aminonaphthalene | FC1=C(C=CC2=CC=CC=C12)N | C10H8FN
